### PR TITLE
[Merged by Bors] - feat(MeasureTheory): characteristic function in an inner product space

### PR DESCRIPTION
**Pull request by RemyDegenne**
Add a definition of a characteristic function, which is equal to the integral of `BoundedContinuousFunction.char` for the inner product bilinear map and the additive character `e = Real.probChar`.

Co-authored-by: Thomas Zhu (@hanwenzhu)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Measure/CharacteristicFunction.lean [hunk 1]
```diff
@@ -68,4 +91,108 @@ theorem ext_of_integral_char_eq (he : Continuous e) (he' : e ≠ 1)
...
+/-- `charFun` as the integral of a bounded continuous function. -/
+lemma charFun_eq_integral_innerProbChar : charFun μ t = ∫ v, innerProbChar t v ∂μ := by
+  simp [charFun_apply, innerProbChar_apply]
+
+lemma charFun_eq_integral_probChar (y : E) : charFun μ y = ∫ x, (Real.probChar ⟪x, y⟫ : ℂ) ∂μ := by
+  simp [charFun_apply, Real.probChar_apply]
+
+/-- `charFun` is a Fourier integral for the inner product and the character `probChar`. -/
+lemma charFun_eq_fourierIntegral (t : E) :
+    charFun μ t = VectorFourier.fourierIntegral Real.probChar μ sesqFormOfInner 1 (-t) := by
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Measure/CharacteristicFunction.lean:128]: Shouldn't this use `bilinFormOfRealInner` instead? It also makes the proof easier. Same question for the lemma below.
```suggestion
lemma charFun_eq_fourierIntegral (t : E) :
    charFun μ t = VectorFourier.fourierIntegral Real.probChar μ bilinFormOfRealInner 1 (-t) := by
```

File: Mathlib/MeasureTheory/Measure/CharacteristicFunction.lean [hunk 2]
```diff
@@ -68,4 +91,108 @@ theorem ext_of_integral_char_eq (he : Continuous e) (he' : e ≠ 1)
...
+      sesqFormOfInner 1 (-(2 * π)⁻¹ • t) := by
+  have h : (2 : ℂ) * π ≠ 0 := by simp [Real.pi_ne_zero]
+  simp only [charFun_apply, real_smul, VectorFourier.fourierIntegral, Real.fourierChar, neg_smul,
+    map_neg, _root_.map_smul, smul_eq_mul, neg_neg, AddChar.coe_mk, ← mul_assoc, Pi.one_apply,
+    Circle.smul_def, Circle.coe_exp, ofReal_mul, ofReal_ofNat, ofReal_inv, mul_inv_cancel₀ h,
+    one_mul, mul_one]
+  simp_rw [real_inner_comm t]
+  congr
+
+lemma norm_charFun_le (t : E) : ‖charFun μ t‖ ≤ (μ Set.univ).toReal := by
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Measure/CharacteristicFunction.lean:146]:
```suggestion
lemma norm_charFun_le (t : E) : ‖charFun μ t‖ ≤ μ.real Set.univ := by
```

File: Mathlib/MeasureTheory/Measure/CharacteristicFunction.lean [hunk 3]
```diff
@@ -68,4 +91,108 @@ theorem ext_of_integral_char_eq (he : Continuous e) (he' : e ≠ 1)
...
+  _ = 2 := by norm_num
+
+lemma stronglyMeasurable_charFun [OpensMeasurableSpace E] [SecondCountableTopology E] [SFinite μ] :
+    StronglyMeasurable (charFun μ) :=
+  (Measurable.stronglyMeasurable (by fun_prop)).integral_prod_left
+
+@[fun_prop]
+lemma measurable_charFun [OpensMeasurableSpace E] [SecondCountableTopology E] [SFinite μ] :
+    Measurable (charFun μ) :=
+  stronglyMeasurable_charFun.measurable
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Measure/CharacteristicFunction.lean:166]: Should those be tagged with `measurability` as well?

File: Mathlib/MeasureTheory/Measure/CharacteristicFunction.lean [hunk 4]
```diff
@@ -68,4 +91,108 @@ theorem ext_of_integral_char_eq (he : Continuous e) (he' : e ≠ 1)
...
+
+lemma intervalIntegrable_charFun {μ : Measure ℝ} [IsFiniteMeasure μ] {a b : ℝ} :
+    IntervalIntegrable (charFun μ) volume a b :=
+  IntervalIntegrable.mono_fun' (g := fun _ ↦ (μ Set.univ).toReal) (by simp)
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Measure/CharacteristicFunction.lean:170]:
```suggestion
  IntervalIntegrable.mono_fun' (g := fun _ ↦ μ.real Set.univ) (by simp)
```

File: Mathlib/MeasureTheory/Measure/CharacteristicFunction.lean [hunk 5]
```diff
@@ -68,4 +91,108 @@ theorem ext_of_integral_char_eq (he : Continuous e) (he' : e ≠ 1)
...
+
+/-- If the characteristic functions `charFun` of two finite measures `μ` and `ν` on
+a complete second-countable inner product space coincide, then `μ = ν`. -/
+theorem Measure.ext_of_charFun {E : Type*} [MeasurableSpace E]
+    [NormedAddCommGroup E] [InnerProductSpace ℝ E] [CompleteSpace E] [BorelSpace E]
+    [SecondCountableTopology E] {μ ν : Measure E} [IsFiniteMeasure μ] [IsFiniteMeasure ν]
+    (h : charFun μ = charFun ν) :
+    μ = ν := by
+  rw [funext_iff] at h
+  simp_rw [charFun_eq_integral_innerProbChar] at h
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Measure/CharacteristicFunction.lean:190]:
```suggestion
  simp_rw [funext_iff, charFun_eq_integral_innerProbChar] at h
```

File: Mathlib/MeasureTheory/Measure/CharacteristicFunction.lean [hunk 6]
```diff
@@ -68,4 +91,108 @@ theorem ext_of_integral_char_eq (he : Continuous e) (he' : e ≠ 1)
 
 end ext
 
+section InnerProductSpace
+
+variable {E : Type*} [MeasurableSpace E] {μ : Measure E} {t : E}
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Measure/CharacteristicFunction.lean:96]: Just checking: the `MeasurableSpace` argument is not implicit here because we don't expect to use different sigma-algebras over normed spaces right?

**Review by EtienneC30 — COMMENTED** [review]
Thanks!

File: Mathlib/MeasureTheory/Measure/CharacteristicFunction.lean (hunk 6 above)
Comment (RemyDegenne) [reply Mathlib/MeasureTheory/Measure/CharacteristicFunction.lean]: It's not implicit because I was thinking about E as a `BorelSpace`, in which case it has to match the topology so can't be anything else than the instance. But actually in most of the results here there is no `BorelSpace` instance, so I turned the `MeasurableSpace` into an implicit argument.

File: Mathlib/MeasureTheory/Measure/CharacteristicFunction.lean [hunk 7]
```diff
@@ -68,4 +91,108 @@ theorem ext_of_integral_char_eq (he : Continuous e) (he' : e ≠ 1)
...
+
+lemma charFun_apply [Inner ℝ E] (t : E) : charFun μ t = ∫ x, exp (⟪x, t⟫ * I) ∂μ := rfl
+
+lemma charFun_apply_real {μ : Measure ℝ} {t : ℝ} :
+    charFun μ t = ∫ x, exp (t * x * I) ∂μ := by simp [charFun_apply]
+
+variable [SeminormedAddCommGroup E] [InnerProductSpace ℝ E]
+
+@[simp]
+lemma charFun_zero (μ : Measure E) : charFun μ 0 = (μ Set.univ).toReal := by
```
[the remark this answers is not in the document]
Comment (RemyDegenne) [reply Mathlib/MeasureTheory/Measure/CharacteristicFunction.lean:109]: It requires an import and if I use that I need to pass `Measure.real_def` to several `simp` calls, so I'd rather not.
The places where it could be used are just 3 appearances of the constant `(μ Set.univ).toReal`: I am not making any computations that would be facilitated from having a real value for the measure here.

File: Mathlib/Analysis/Fourier/FourierTransform.lean [hunk 8]
```diff
@@ -220,6 +220,13 @@ theorem integral_fourierIntegral_smul_eq_flip
 
 end Fubini
 
+lemma fourierIntegral_probChar {V W : Type*} {_ : MeasurableSpace V}
+    [AddCommGroup V] [Module ℝ V] [AddCommGroup W] [Module ℝ W]
+    (L : V →ₗ[ℝ] W →ₗ[ℝ] ℝ) (μ : MeasureTheory.Measure V) (f : V → E) (w : W) :
```
Comment (b-mehta) [inline Mathlib/Analysis/Fourier/FourierTransform.lean:225]:
```suggestion
    (L : V →ₗ[ℝ] W →ₗ[ℝ] ℝ) (μ : Measure V) (f : V → E) (w : W) :
```
I haven't checked, but it looks like this should work?

File: Mathlib/MeasureTheory/Measure/CharacteristicFunction.lean [hunk 9]
```diff
@@ -68,4 +91,104 @@ theorem ext_of_integral_char_eq (he : Continuous e) (he' : e ≠ 1)
...
+
+@[simp]
+lemma charFun_neg (t : E) : charFun μ (-t) = conj (charFun μ t) := by
+  simp [charFun_apply, ← integral_conj, ← exp_conj]
+
+/-- `charFun` as the integral of a bounded continuous function. -/
+lemma charFun_eq_integral_innerProbChar : charFun μ t = ∫ v, innerProbChar t v ∂μ := by
+  simp [charFun_apply, innerProbChar_apply]
+
+lemma charFun_eq_integral_probChar (y : E) : charFun μ y = ∫ x, (probChar ⟪x, y⟫ : ℂ) ∂μ := by
```
Comment (b-mehta) [inline Mathlib/MeasureTheory/Measure/CharacteristicFunction.lean:123]: nitpick: in the lemmas before and after this one, you use `t` instead of `y` as the argument

File: Mathlib/MeasureTheory/Measure/CharacteristicFunction.lean [hunk 10]
```diff
@@ -68,4 +91,104 @@ theorem ext_of_integral_char_eq (he : Continuous e) (he' : e ≠ 1)
...
+lemma norm_charFun_le_one [IsProbabilityMeasure μ] (t : E) : ‖charFun μ t‖ ≤ 1 :=
+  (norm_charFun_le _).trans_eq (by simp)
+
+lemma norm_one_sub_charFun_le_two [IsProbabilityMeasure μ] : ‖1 - charFun μ t‖ ≤ 2 :=
+  calc ‖1 - charFun μ t‖
+  _ ≤ ‖(1 : ℂ)‖ + ‖charFun μ t‖ := norm_sub_le _ _
+  _ ≤ 1 + 1 := by simp [norm_charFun_le_one]
+  _ = 2 := by norm_num
+
+@[measurability]
```
Comment (b-mehta) [inline Mathlib/MeasureTheory/Measure/CharacteristicFunction.lean:155]: Is it useful to tag this one fun_prop too? (I don't know the answer!)

**Review by b-mehta — APPROVED** [review]
Thanks!

bors d+

File: Mathlib/MeasureTheory/Measure/CharacteristicFunction.lean (hunk 10 above)
Comment (RemyDegenne) [reply Mathlib/MeasureTheory/Measure/CharacteristicFunction.lean:155]: `fun_prop` does not know about `StronglyMeasurable`.
We should change that, but that's for another PR!
